US04226783
2-Methylanthraquinone (5.89 g, 0.0265 mole) and dichlorine monoxide (5.77 g, 0.0664 mole) in carbon tetrachloride (70 ml) were heated in a Carrius tube as described in Example 6 at 75° for 20.25 hrs. The product which separated as a yellow crystalline solid was dissolved in methylene chloride and filtered to separate a solid (0.49 g) judged from its infrared spectra to be anthraquinone-2-carboxylic acid. The filtrate was dried (MgSO4) and the solvent removed on a rotary evaporator to give 2-trichloromethylanthraquinone as a yellow crystalline solid (8.49 g, purity by HPLC 94.26%; yield 92.5%). An aliquot of the product was recrystallized from carbon tetrachloride and then sublimed (0.1μ) to give pure anthraquinone-2-carboxylic acid, mp 157-158.2.

reactant | 2-Methylanthraquinone | 0.0265 mole, 5.89 g | CC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H10O2
reactant | dichlorine monoxide | 0.0664 mole, 5.77 g | O(Cl)Cl | Cl2O
reactant | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-trichloromethylanthraquinone | yield 92.5% | ClC(C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)(Cl)Cl | C15H7Cl3O2
